US04016165
In the manner given in Example 1, 2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine can be reacted with chloropropanone to give 2-[(2-chloro-1-methylethylidene)hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine.

reactant | 2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | N(N)C1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=CC=C2 | C15H13ClN4
reactant | chloropropanone | ClCC(C)=O | C3H5ClO
product | 2-[(2-chloro-1-methylethylidene)hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClCC(C)=NNC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=CC=C2 | C18H16Cl2N4
